* VibroSense Folded-Cascode OTA — SKY130A v11
* Low-noise design: all NMOS L=14u for reduced 1/f noise
* No tail cascode needed — long L provides sufficient CMRR

.subckt ota_foldcasc vinp vinn vout vdd vss vbn vbcn vbp vbcp

* Input Pair (W=5u L=14u for low 1/f noise, Vov>50mV)
XM1 fold_p vinp tail vss sky130_fd_pr__nfet_01v8 W=5u L=14u nf=1
XM2 fold_n vinn tail vss sky130_fd_pr__nfet_01v8 W=5u L=14u nf=1

* Tail (500nA) — long L for high output impedance
XM11 tail vbn vss vss sky130_fd_pr__nfet_01v8 W=3.8u L=14u nf=1

* PMOS Fold: 20 parallel instances of W=0.42u L=20u for low noise
XM3a  fold_p vbp vdd vdd sky130_fd_pr__pfet_01v8 W=0.42u L=20u nf=1
XM3b  fold_p vbp vdd vdd sky130_fd_pr__pfet_01v8 W=0.42u L=20u nf=1
XM3c  fold_p vbp vdd vdd sky130_fd_pr__pfet_01v8 W=0.42u L=20u nf=1
XM3d  fold_p vbp vdd vdd sky130_fd_pr__pfet_01v8 W=0.42u L=20u nf=1
XM3e  fold_p vbp vdd vdd sky130_fd_pr__pfet_01v8 W=0.42u L=20u nf=1
XM3f  fold_p vbp vdd vdd sky130_fd_pr__pfet_01v8 W=0.42u L=20u nf=1
XM3g  fold_p vbp vdd vdd sky130_fd_pr__pfet_01v8 W=0.42u L=20u nf=1
XM3h  fold_p vbp vdd vdd sky130_fd_pr__pfet_01v8 W=0.42u L=20u nf=1
XM3i  fold_p vbp vdd vdd sky130_fd_pr__pfet_01v8 W=0.42u L=20u nf=1
XM3j  fold_p vbp vdd vdd sky130_fd_pr__pfet_01v8 W=0.42u L=20u nf=1
XM3k  fold_p vbp vdd vdd sky130_fd_pr__pfet_01v8 W=0.42u L=20u nf=1
XM3l  fold_p vbp vdd vdd sky130_fd_pr__pfet_01v8 W=0.42u L=20u nf=1
XM3m  fold_p vbp vdd vdd sky130_fd_pr__pfet_01v8 W=0.42u L=20u nf=1
XM3n  fold_p vbp vdd vdd sky130_fd_pr__pfet_01v8 W=0.42u L=20u nf=1
XM3o  fold_p vbp vdd vdd sky130_fd_pr__pfet_01v8 W=0.42u L=20u nf=1
XM3p  fold_p vbp vdd vdd sky130_fd_pr__pfet_01v8 W=0.42u L=20u nf=1
XM3q  fold_p vbp vdd vdd sky130_fd_pr__pfet_01v8 W=0.42u L=20u nf=1
XM3r  fold_p vbp vdd vdd sky130_fd_pr__pfet_01v8 W=0.42u L=20u nf=1
XM3s  fold_p vbp vdd vdd sky130_fd_pr__pfet_01v8 W=0.42u L=20u nf=1
XM3t  fold_p vbp vdd vdd sky130_fd_pr__pfet_01v8 W=0.42u L=20u nf=1
XM4a  fold_n vbp vdd vdd sky130_fd_pr__pfet_01v8 W=0.42u L=20u nf=1
XM4b  fold_n vbp vdd vdd sky130_fd_pr__pfet_01v8 W=0.42u L=20u nf=1
XM4c  fold_n vbp vdd vdd sky130_fd_pr__pfet_01v8 W=0.42u L=20u nf=1
XM4d  fold_n vbp vdd vdd sky130_fd_pr__pfet_01v8 W=0.42u L=20u nf=1
XM4e  fold_n vbp vdd vdd sky130_fd_pr__pfet_01v8 W=0.42u L=20u nf=1
XM4f  fold_n vbp vdd vdd sky130_fd_pr__pfet_01v8 W=0.42u L=20u nf=1
XM4g  fold_n vbp vdd vdd sky130_fd_pr__pfet_01v8 W=0.42u L=20u nf=1
XM4h  fold_n vbp vdd vdd sky130_fd_pr__pfet_01v8 W=0.42u L=20u nf=1
XM4i  fold_n vbp vdd vdd sky130_fd_pr__pfet_01v8 W=0.42u L=20u nf=1
XM4j  fold_n vbp vdd vdd sky130_fd_pr__pfet_01v8 W=0.42u L=20u nf=1
XM4k  fold_n vbp vdd vdd sky130_fd_pr__pfet_01v8 W=0.42u L=20u nf=1
XM4l  fold_n vbp vdd vdd sky130_fd_pr__pfet_01v8 W=0.42u L=20u nf=1
XM4m  fold_n vbp vdd vdd sky130_fd_pr__pfet_01v8 W=0.42u L=20u nf=1
XM4n  fold_n vbp vdd vdd sky130_fd_pr__pfet_01v8 W=0.42u L=20u nf=1
XM4o  fold_n vbp vdd vdd sky130_fd_pr__pfet_01v8 W=0.42u L=20u nf=1
XM4p  fold_n vbp vdd vdd sky130_fd_pr__pfet_01v8 W=0.42u L=20u nf=1
XM4q  fold_n vbp vdd vdd sky130_fd_pr__pfet_01v8 W=0.42u L=20u nf=1
XM4r  fold_n vbp vdd vdd sky130_fd_pr__pfet_01v8 W=0.42u L=20u nf=1
XM4s  fold_n vbp vdd vdd sky130_fd_pr__pfet_01v8 W=0.42u L=20u nf=1
XM4t  fold_n vbp vdd vdd sky130_fd_pr__pfet_01v8 W=0.42u L=20u nf=1

* PMOS Bias Mirrors
XM12 fold_p vbp vdd vdd sky130_fd_pr__pfet_01v8 W=0.42u L=20u nf=1
XM13 fold_n vbp vdd vdd sky130_fd_pr__pfet_01v8 W=0.42u L=20u nf=1

* PMOS Cascode (W=0.42u L=2u)
XM5  cas_p vbcp fold_p vdd sky130_fd_pr__pfet_01v8 W=0.42u L=2u nf=1
XM6  vout  vbcp fold_n vdd sky130_fd_pr__pfet_01v8 W=0.42u L=2u nf=1

* NMOS Cascode (W=2u L=14u for low 1/f noise)
XM7  cas_p vbcn src7 vss sky130_fd_pr__nfet_01v8 W=2u L=14u nf=1
XM8  vout  vbcn src8 vss sky130_fd_pr__nfet_01v8 W=2u L=14u nf=1

* NMOS Current Sources (W=2.15u L=14u — matched L with tail)
XM9  src7 vbn vss vss sky130_fd_pr__nfet_01v8 W=2.15u L=14u nf=1
XM10 src8 vbn vss vss sky130_fd_pr__nfet_01v8 W=2.15u L=14u nf=1

.ends ota_foldcasc
